US05167709
In a procedure similar to those described in Production Examples 4 and 5, 20 g of N-lauroylaminohexanoic acid, 2.6 g of sodium hydroxide, 180 g of ion exchanged water and 71 g of 10% by weight aqueous solution of calcium chloride were used. Thus, 21.1 g of the target N-lauroylaminohexanoic acid calcium salt was obtained as white crystals (yield: 99.6%).

reactant | N-lauroylaminohexanoic acid | 20 g | C(CCCCCCCCCCC)(=O)NC(C(=O)O)CCCC | C18H35NO3
reactant | sodium hydroxide | 2.6 g | [OH-].[Na+]
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | water | O | H2O
product | N-lauroylaminohexanoic acid calcium salt | [Ca+2].C(CCCCCCCCCCC)(=O)NC(C(=O)[O-])CCCC.C(CCCCCCCCCCC)(=O)NC(C(=O)[O-])CCCC | InChI=1S/2C18H35NO3.Ca/c2*1-3-5-7-8-9-10-11-12-13-15-17(20)19-16(18(21)22)14-6-4-2;/h2*16H,3-15H2,1-2H3,(H,19,20)(H,21,22);/q;;+2/p-2
